US07919506B2
Step 2: Preparation of (3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexyl-methoxy-methyl)-4-methyl-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of (2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-5-methyl-4-trifluoromethyl-phenyl)-cyclohexyl-methanol (8 mg, 0.01 mmol) in THF (0.15 mL) at 0° C. was added sodium hydride (4.2 mg, 0.11 mmol). The mixture was stirred at room temperature for 30 minutes. Methyl iodide (10 μL, 0.2 mmol) was added at 0° C. The mixture was stirred at room temperature overnight. The mixture was quenched with methanol and purified by chromatography over 12+S Biotage silica column (eluted with 0-30% ethyl acetate in heptane) to afford the title compound (3.6 mg, 40%). 1H NMR (400 MHz, CDCl3) δ ppm 0.92-1.20 (m, 6H) 1.41-1.51 (m, 1H) 1.61 (d, J=8.71 Hz, 2H) 1.67-1.74 (m, 1H) 1.93 (d, J=11.62 Hz, 1H) 2.46 (s, 3H) 3.04 (s, 3H) 4.04 (d, J=7.05 Hz, 1H) 4.21 (s, 3H) 4.63-4.72 (m, 3H) 4.84 (d, J=16.18 Hz, 1H) 7.27 (s, 1H) 7.30 (s, 1H) 7.63 (s, 2H) 7.77 (s, 1H). MS (ES30) Calc: 623.2, Found: 624.6 (M+1) According to the procedure described in example 23 and using the corresponding aryl bromide and aldehyde reagent, example 24 was prepared.

reactant | (2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-5-methyl-4-trifluoromethyl-phenyl)-cyclohexyl-methanol | 0.01 mmol, 8 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=C(C(=C2)C(F)(F)F)C)C(O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C27H28F9N5O
reactant | sodium hydride | 0.11 mmol, 4.2 mg | [H-].[Na+]
reactant | Methyl iodide | 0.2 mmol, 10 μL | CI | CH3I
solvent | THF | 0.15 mL | C1CCOC1 | C4H8O
product | (3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexyl-methoxy-methyl)-4-methyl-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine | 3.6 mg, 40% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=C(C(=C2)C(F)(F)F)C)C(OC)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C28H30F9N5O
